US06492416B1
To a stirred solution of 4-bromo-2-ethyl-2-methy-5-{4-(methysulfonyl)-phenyl}-3(2H)-furanone (200 mg) in 15 ml of toluene, were added 40 mg of tetrakis(triphenylphosphine)palladium(0), 5 ml of 2 M aqueous sodium carbonate solution, and 100 mg of benzeneboronic acid. The reaction solution was stirred at reflux for 12 hours. Then the reaction solvent was evaporated under reduced pressure. The resulting residue was extracted with water and dichloromethane (30 ml×3). The organic layer was concentrated in vacuo. The resulting crude product mixture was purified by column chromatography (hexane/ethylacetate=2:1) to give 60 mg of 2-ethyl-2-methyl-5-{4-(methylsulfonyl)phenyl}-4-phenyl-3(2H)-furanone as a solid. mp: 115-117° C. NMR: δ0.96 (t, J=7.5 Hz, 3H), 1.55 (s, 3H), 1.97 (q, J=7.5 Hz, 2H), 3.07 (s, 3H), 7.37 (m, 5H), 7.85 (d, J=8.7 Hz, 2H), 7.93 (d, J=8.7 Hz, 2H). IR (cm−1): 2928, 1697, 1620, 1403, 1318, 1149, 959, 769, 552.

reactant | 4-bromo-2-ethyl-2-methy-5-{4-(methysulfonyl)-phenyl}-3(2H)-furanone | 200 mg | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)CC)=O | C14H15BrO4S
reactant | sodium carbonate | 2 M, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzeneboronic acid | 100 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-ethyl-2-methyl-5-{4-(methylsulfonyl)phenyl}-4-phenyl-3(2H)-furanone | 60 mg | C(C)C1(OC(=C(C1=O)C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C)C | C20H20O4S
